US07566724B2
Under an argon atmosphere, palladium acetate (54 mg) and tris(2-methylphenyl)phosphine (70 mg) were added to a suspension of N-Boc-allylglycine methyl ester (1.03 g), N-(4-iodophenyl)-N-methylpyrimidin-2-amine (1.40 g) and potassium carbonate (933 mg) in DMF (15 ml), and the resulting mixture was stirred at 80° C. overnight. The reaction solution was allowed to cool to room temperature and ethyl acetate was added thereto. The solution was washed 3 times with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: cyclohexane/ethyl acetate=20/1-4/1). The obtained solid was recrystallized from hexane/ethyl acetate mixed solvent to obtain 2-tert-butoxycarbonylamino-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (976 mg). (4) Trifluoroacetic acid (2 ml) was added to a solution of 2-tert-butoxycarbonylamino-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (976 mg) in dichloromethane (20 ml), and the resulting mixture was stirred at room temperature for 4.5 hours. Water was added to the reaction solution, and sodium hydrogen carbonate was added thereto in small portions to neutralize it, followed by extracting the resulting solution twice with chloroform. Organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated to dryness to obtain 2-amino-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (599 mg). NMR (HL, CDCl3): δ 2.58-2.64 (2H, brm), 3.48-3.58 (1H, brm), 3.52 (3H, s), 3.75 (3H, s), 6.07-6.14 (1H, m), 6.49 (1H, d, J=5.6 Hz), 6.57 (1H, t, J=4.6 Hz), 7.26 (2H, d, J=8.1 Hz), 7.38 (2H, d, J=8.3 Hz), 8.34 (2H, d, J=4.6 Hz)

reactant | N-Boc-allylglycine methyl ester | 1.03 g | COC(CN(C(=O)OC(C)(C)C)CC=C)=O | C11H19NO4
reactant | N-(4-iodophenyl)-N-methylpyrimidin-2-amine | 1.40 g | IC1=CC=C(C=C1)N(C1=NC=CC=N1)C | C11H10IN3
reactant | potassium carbonate | 933 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 54 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(2-methylphenyl)phosphine | 70 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
product | 2-tert-butoxycarbonylamino-5-[4-(methyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 976 mg | COC(C(CC=CC1=CC=C(C=C1)N(C1=NC=CC=N1)C)NC(=O)OC(C)(C)C)=O | C22H28N4O4
